US07776897B2
Benzoyl chloride (0.21 ml) and N,N-dimethylaminopyridine (40 mg) were added to a pyridine (15 ml) solution of N-{1-methyl-1-[4-methyl-5-(2-methylphenyl)-4H-1,2,4-triazol-3-yl]ethyl}aniline (500 mg), followed by stirring at 80° C. for 3 days. After the reaction solution and chloroform were added to 1M hydrochloric acid, the reaction solution and chloroform were added to brine and then the organic layer was separated. Furthermore, the organic layer washed with a saturated aqueous sodium hydrogen carbonate solution and a saturated sodium chloride solution successively, dried over anhydrous magnesium-sulfate, and filtered and then the solvent was removed by evaporation under reduced pressure. The resulting crude product was purified by flash column chromatography (chloroform:methanol=99:1 to 98:2) and then the resulting solid washed with ether to obtain 523 mg of N-{1-methyl-1-[4-methyl-5-(2-methylphenyl)-4H-1,2,4-triazol-3-yl]ethyl}-N-phenylbenzamide (colorless solid).

reactant | Benzoyl chloride | 0.21 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
reactant | N-{1-methyl-1-[4-methyl-5-(2-methylphenyl)-4H-1,2,4-triazol-3-yl]ethyl}aniline | 500 mg | CC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C)NC1=CC=CC=C1 | C19H22N4
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | brine | [Cl-].[Na+].O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-{1-methyl-1-[4-methyl-5-(2-methylphenyl)-4H-1,2,4-triazol-3-yl]ethyl}-N-phenylbenzamide | 523 mg | CC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C)N(C(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C26H26N4O
